US04671819
N-[2-(3,3,3-Trifluoropropyl)-phenylsulfonyl]-N'-(4,6-dimethoxy-1,3,5-triazin-2-yl)-urea
5.6 g of 2-(3,3,3-trifluoropropyl)-phenylsulfonylisocyanate and 3.12 g of 2-amino-4,6-dimethoxy-1,3,5-triazine are stirred up in 60 ml of absolute dioxane at 70°-80° C. for 2 hours. The mixture is subsequently treated with active charcoal, filtered, and concentrated by evaporation to about 1/5 of the volume. There crystallise from the residue, after the addition of ether, 6.8 g of N-[2-(3,3,3-trifluoropropyl)-phenylsulfonyl]-N'-(4,6-dimethoxy-1,3,5-triazin-2-yl)-urea, m.p. 177°-178° C.

reactant | 2-(3,3,3-trifluoropropyl)-phenylsulfonylisocyanate | 5.6 g | FC(CCC1=C(C=CC=C1)S(=O)(=O)N=C=O)(F)F | C10H8F3NO3S
reactant | 2-amino-4,6-dimethoxy-1,3,5-triazine | 3.12 g | NC1=NC(=NC(=N1)OC)OC | C5H8N4O2
reactant | charcoal | C | CH4
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | N-[2-(3,3,3-Trifluoropropyl)-phenylsulfonyl]-N'-(4,6-dimethoxy-1,3,5-triazin-2-yl)-urea | FC(CCC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)OC)(F)F | C15H16F3N5O5S
